US07851473B2
(3) N-[4-(2-Oxopyrrolidin-1-yl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of bis(2,2,2-trichloroethyl) [4-(2-oxopyrrolidin-1-yl)phenyl]imidodicarbonate (200 mg, 0.380 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (140 mg, 0.569 mmol), diisopropylethylamine (0.198 ml, 1.14 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 24 hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from ethyl acetate to give 51.0 mg (30.0%) of the desired product as a solid.

reactant | bis(2,2,2-trichloroethyl) [4-(2-oxopyrrolidin-1-yl)phenyl]imidodicarbonate | 0.380 mmol, 200 mg | O=C1N(CCC1)C1=CC=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C16H14Cl6N2O5
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.569 mmol, 140 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.14 mmol, 0.198 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-[4-(2-Oxopyrrolidin-1-yl)phenyl]-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 51.0 mg, 30.0% | O=C1N(CCC1)C1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C23H24N6O2S
